.title KiCad schematic
.include /home/jtmadden/repos/jlab/shiny-train/cap.lib
.model Smodel SW
+           vt=1
+           ron=1
+           roff=1G
.save all
.probe alli
.probe p(S1)
.probe p(V2)
.probe p(V1)
.probe p(R3)
.probe p(R1)
.probe p(XC2)
.probe p(S2)
.probe p(V3)
.tran 10m 2
S1 source C1 Net-_S1-C+_ GND Smodel ON
V2 Net-_S1-C+_ GND PWL( 0 0 199m 0 200m 1 ) 
V1 Net-_R3-Pad2_ GND PWL( 0 0 99m 0 100m 1 ) 
R3 source Net-_R3-Pad2_ 2.2k
R1 load GND 200
XC2 C1 GND C_real Cval=1m
S2 source load Net-_S2-C+_ GND Smodel ON
V3 Net-_S2-C+_ GND PWL( 0 0 0.99 0 1 1 ) 
.end
